US05919786
(1) Preparation of ethyl 5-{2-(4-nitrophenyl)-3-oxobutyl}-2-furancarboxylate
3.00 g of p-nitrophenylacetone was dissolved in 50 ml of dimethylformamide, and 0.70 g of 60% oily sodium hydride was added under cooling with ice with stirring, followed by stirring at the same temperature for 10 minutes. 5 ml of a dimethylformamide solution containing 3.40 g of ethyl 5-chloromethyl-2-furancarboxylate, and 3.05 g of potassium iodide were added thereto, followed by stirring at room temperature for 2.5 hours. Then, the reaction solution was acidified by an addition of acetic acid. Water and ethyl ether were added, and the mixture was extracted. Then, the organic layer was washed with a saturated sodium chloride aqueous solution and dried over anhydrous magnesium sulfate. The drying agent was filtered off, and then, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=5/1+2/1) to obtain 5.48 g of the above-identified compound.

reactant | p-nitrophenylacetone | 3.00 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(C)=O | C9H9NO3
reactant | sodium hydride | 0.70 g | [H-].[Na+]
reactant | ethyl 5-chloromethyl-2-furancarboxylate | 3.40 g | ClCC1=CC=C(O1)C(=O)OCC | C8H9ClO3
reactant | potassium iodide | 3.05 g | [I-].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | Water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | ethyl 5-{2-(4-nitrophenyl)-3-oxobutyl}-2-furancarboxylate | 5.48 g | [N+](=O)([O-])C1=CC=C(C=C1)C(CC1=CC=C(O1)C(=O)OCC)C(C)=O | C17H17NO6
